* C:\Users\lapsha\Desktop\analog\laba3\3\Draft2.asc
L1 N001 0 15.3m
R1 P001 P002 10k
C1 N001 P001 12.3n
V1 P002 0 SINE(0 1 200k)
.tran 20u
.backanno
.end
